US08604040B2
tert-Butyl 6-bromo-3′,6′-dihydro-2,4′-bipyridine-1′(2′H)-carboxylate
To a solution of tert-butyl 4-(6-bromopyridin-2-yl)-4-hydroxypiperidine-1-carboxylate (100 mg) in pyridine (2.5 ml) is added, at 0° C. under argon, POCl3 (0.26 ml). The mixture is stirred at 0° C. and then slowly warmed to room temperature. The mixture is stirred at room temperature overnight. The reaction mixture is subsequently admixed with saturated sodium hydrogencarbonate solution and the aqueous phase is removed. After the aqueous phase has been extracted with tert-butyl methyl ether, the combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. The residue is purified by chromatography. This gives tert-butyl 6-bromo-3′,6′-dihydro-2,4′-bipyridine-1′(2′H)-carboxylate (60 mg).

reactant | tert-butyl 4-(6-bromopyridin-2-yl)-4-hydroxypiperidine-1-carboxylate | 100 mg | BrC1=CC=CC(=N1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C15H21BrN2O3
reactant | POCl3 | 0.26 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 6-bromo-3′,6′-dihydro-2,4′-bipyridine-1′(2′H)-carboxylate | BrC1=CC=CC(=N1)C=1CCN(CC1)C(=O)OC(C)(C)C | C15H19BrN2O2
